US08097617B2
In a sealed flask, a solution of 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile (750 mg, 2.6 mmol) in THF (20 mL) was cautiously added to well stirred BH3.THF complex (1.0 M solution in THF, 13 mL, 13.0 mmol) at 0° C. The reaction mixture was heated at 40° C. for 1 h and cooled to RT. MeOH (large excess) and Amberlyst 15 (35 g) were successively added and the resulting mixture was shaken at RT for 30 min. The resin was filtered, washed with MeOH (500 mL), and the desired compound was released with ammonia (1.0 M solution in MeOH, 1.2 L). The NH3-MeOH fraction was evaporated to yield the crude C-[6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methylamine (778 mg) as a yellow oil.

reactant | 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carbonitrile | 2.6 mmol, 750 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)C#N | C14H7Cl2N3
reactant | BH3.THF | 13.0 mmol, 1.0 M, 13 mL | B.C1CCOC1
reactant | MeOH | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | C-[6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methylamine | 778 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)CN | C14H11Cl2N3
